US08686048B2
Intermediate 81: 3′-cyclopropoxybiphenyl-4-amine
The title compound (98 mg) was prepared from 4-bromoaniline (1 g, 5.81 mmol) and 3-isopropoxyphenylboronic acid (1.96 g, 7.55 mmol) as a yellow liquid.

reactant | 4-bromoaniline | 5.81 mmol, 1 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 3-isopropoxyphenylboronic acid | 7.55 mmol, 1.96 g | C(C)(C)OC=1C=C(C=CC1)B(O)O | C9H13BO3
product | 3′-cyclopropoxybiphenyl-4-amine | 98 mg | C1(CC1)OC=1C=C(C=CC1)C1=CC=C(C=C1)N | C15H15NO
